US08084483B2
Aqueous lithium hydroxide solution (1M, 0.8 mL, 0.8 mmol) is added to a solution of ethyl 2-(2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetamido)acetate (0.4 mmol) in 3:1, THF/H2O (1.6 mL) and the mixture stirred for 18 h at room temperature. The crude reaction mixture is concentrated and acidified with aqueous HCl (1M, 1.2 mL) and then is extracted with ethyl acetate (3×3 mL). The combined organic extracts are dried (sodium sulfate), filtered and concentrated to provide 2-(2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetamido)acetic acid.

reactant | lithium hydroxide | 0.8 mmol, 1M, 0.8 mL | [OH-].[Li+]
reactant | ethyl 2-(2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetamido)acetate | 0.4 mmol | BrC=1N(C(=NN1)SCC(=O)NCC(=O)OCC)C1=CC=C(C2=CC=CC=C12)C1CC1 | C21H21BrN4O3S
solvent | THF H2O | 1.6 mL | C1CCOC1.O
product | 2-(2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetamido)acetic acid | BrC=1N(C(=NN1)SCC(=O)NCC(=O)O)C1=CC=C(C2=CC=CC=C12)C1CC1 | C19H17BrN4O3S
